US07659401B2
Step 4: 5-Bromo-2-methyl-thiazole-4-carbonitrile
5-Bromo-2-methyl-thiazole-4-carboxylic acid amide (11.3 g, 51.1 mmol) was dissolved in 150 ml dichloromethane and triethylamine (14.2 ml, 102.2 mmol) was added. Trifluoroaceticanhydride (14.3 ml, 102.2 mmol) was added dropwise at 0° C. and the mixture stirred without cooling for 2 hrs. The reaction mixture was quenched with saturated NaHCO3-solution and extracted with ethyl acetate. The organic extract was washed with brine, dried with sodium sulfate, filtered and evaporated. The crude product was purified by flash chromatography on silica gel (heptane/ethyl acetate 90:10->20:80 gradient). The desired compound was obtained as a light yellow solid (6.4 g, 62%), MS: m/e=204.0 (M+H+).

reactant | 5-Bromo-2-methyl-thiazole-4-carboxylic acid amide | 51.1 mmol, 11.3 g | BrC1=C(N=C(S1)C)C(=O)N | C5H5BrN2OS
reactant | triethylamine | 102.2 mmol, 14.2 ml | C(C)N(CC)CC | C6H15N
reactant | Trifluoroaceticanhydride | 102.2 mmol, 14.3 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 5-Bromo-2-methyl-thiazole-4-carbonitrile | BrC1=C(N=C(S1)C)C#N | C5H3BrN2S
